US06919322B2
A mixture of diethyl 5-tributylstannyl-2-furanphosphonate (1 mmol), 1-iodo-2,4-dinitrobenzene (1 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.05 mmol) in 6 mL of dioxane was heated at 80° C. for 16 h. Evaporation of solvent and chromatography provided diethyl 5-(3,5-dinitrophenyl)-2-furanphosphonate as solid foam.

reactant | diethyl 5-tributylstannyl-2-furanphosphonate | 1 mmol | C(CCC)[Sn](C1=CC=C(O1)P(OCC)(=O)OCC)(CCCC)CCCC
reactant | 1-iodo-2,4-dinitrobenzene | 1 mmol | IC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3IN2O4
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | diethyl 5-(3,5-dinitrophenyl)-2-furanphosphonate | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=C(O1)P(OCC)(=O)OCC | C14H15N2O8P
